US07919519B2
To a solution of benzofuran-5-yl(phenyl)methanone (1.0 g, 4.5 mmol) in 20 mL THF under nitrogen at 0° C. was added methylmagnesium bromide 3.0M in diethyl ether (2.2 mL, 6.7 mmol) dropwise via syringe. The reaction was allowed to warm to ambient temperature slowly. The reaction was quenched with sat'd aq. NH4Cl and DCM. The aqueous layer was extracted 2×DCM, and the combined organics were dried over anhyd sodium sulfate, filtered, and concentrated in vacuo to give 1-(benzofuran-5-yl)-1-phenylethanol as an oil, which was used without further purification. MS (ESI) m/z: Calculated: 238.1; Observed: 238.8 (M++1).

reactant | benzofuran-5-yl(phenyl)methanone | 4.5 mmol, 1.0 g | O1C=CC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2 | C15H10O2
reactant | methylmagnesium bromide | 3.0M | C[Mg]Br
reactant | diethyl ether | 6.7 mmol, 2.2 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(benzofuran-5-yl)-1-phenylethanol | O1C=CC2=C1C=CC(=C2)C(C)(O)C2=CC=CC=C2 | C16H14O2
